US05849764
Step 3A {2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]-ethyl}-[3-(1-methanesulfonyl-1H-benzoimidazol-5-yl)-allyl]amine
To a solution of 3-(1H-benzoimidazol-5-yl)-prop-2-en-1-ol (44 mg in a mixture of 2 mL methylene chloride and 0.1 mL N,N-dimethylformaminde) at 0° C. was added sequentially 346 mg of tetrabutylammonium bromide, 0.110 mL diisopropylethylamine, and 100 mg methanesulfonic anhydride and the mixture allowed to warm to room temperature. After 1 hour, this mixture was added to a solution of 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]-ethylamine (300 mg in a mixture of 6 mL methylene chloride and 1.5 mL N,N-dimethylformamide) and stirring continued for 2.5 hours. At this time the mixture was concentrated in vacuo and the residue purified by flash chromatography on silica gel (methylene chloride:methanol, 91:9) to give the title compound (24 mg).

reactant | 3-(1H-benzoimidazol-5-yl)-prop-2-en-1-ol | N1C=NC2=C1C=CC(=C2)C=CCO | C10H10N2O
reactant | diisopropylethylamine | 0.110 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonic anhydride | 100 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]-ethylamine | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCN | C18H20N2O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 346 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | {2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]-ethyl}-[3-(1-methanesulfonyl-1H-benzoimidazol-5-yl)-allyl]amine | 24 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCNCC=CC1=CC2=C(N(C=N2)S(=O)(=O)C)C=C1 | C29H30N4O4S
